US03935268
To bis(3,3-diphenylpropyl)amine (1.2 g) was added 3-chloropropan-1-ol (20 ml) and the mixture was heated with agitation at 150° to 160°C for 4 hours. The reaction mixture was evaporated under reduced pressure, and to the resulting residue was added benzene (20 ml). The mixture was washed with 5% hydrochloric acid and water in order. The benzene layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure to give oily residue. The residue thus obtained was crystallized from acetone-petroleum ether and further recrystallized from ethanol-ether to give 3-[bis(3,3-diphenylpropyl)amino]propan-1-ol hydrochloride (0.5 g). M.P. 152° to 154°C.

reactant | bis(3,3-diphenylpropyl)amine | 1.2 g | C1(=CC=CC=C1)C(CCNCCC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H31N
reactant | 3-chloropropan-1-ol | 20 ml | ClCCCO | C3H7ClO
product | 3-[bis(3,3-diphenylpropyl)amino]propan-1-ol hydrochloride | 0.5 g | Cl.C1(=CC=CC=C1)C(CCN(CCCO)CCC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H37NO.ClH/c35-27-13-24-34(25-22-32(28-14-5-1-6-15-28)29-16-7-2-8-17-29)26-23-33(30-18-9-3-10-19-30)31-20-11-4-12-21-31;/h1-12,14-21,32-33,35H,13,22-27H2;1H
